US08835488B2
To a solution of 2-[(9R)-9-(4-fluorophenyl)-6-oxaspiro[4.5]decan-9-yl]acetonitrile (500 mg, 1.8 mmol) in anhydrous ether (30 ml) at 0° C. was added dropwise LAH (1.0 M in Et2O, 3.7 ml, 3.7 mmol). The reaction was then warmed up to room temperature. After 2 h the reaction was quenched with 1 ml H2O, 0.2 ml 15% NaOH and then 1 ml H2O. The reaction mixture was extracted with Et2O (3×30 ml), dried over NA2SO4 and concentrated to give 2-[(9R)-9-(4-fluorophenyl)-6-oxaspiro[4.5]decan-9-yl]ethan-1-amine as an yellow oil, which used without further purification (500 mg, 100%, m/z 277.2 [M+H]+ observed).

reactant | 2-[(9R)-9-(4-fluorophenyl)-6-oxaspiro[4.5]decan-9-yl]acetonitrile | 1.8 mmol, 500 mg | FC1=CC=C(C=C1)[C@@]1(CCOC2(CCCC2)C1)CC#N | C17H20FNO
reactant | LAH | 3.7 mmol, 1.0 M, 3.7 ml | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | ether | 30 ml | CCOCC | C4H10O
product | 2-[(9R)-9-(4-fluorophenyl)-6-oxaspiro[4.5]decan-9-yl]ethan-1-amine | FC1=CC=C(C=C1)[C@@]1(CCOC2(CCCC2)C1)CCN | C17H24FNO
